US06939874B2
In a three-neck flask with an overhead mechanical stirrer, a mixture of 1-(3-chloropropyl)-piperidine (49.8 g, 0.308 mol), 4-nitrophenol (42.8 g, 0.308 mol) and K2CO3 (212 g, 1.53 mol), in anhydrous DMF (200 mL) was heated to 94° C. and stirred for 18 h. The mixture was cooled to RT then diluted with 2 L water. The organics were taken up in EtOAc (2 L) and washed twice with 2N NaOH (500 mL) then brine (200 mL). The combined organics were dried over anhydrous MgSO4 then concentrated under reduced pressure to give 1-[3-(4-nitro-phenoxy)-propyl]-piperidine as a yellowish oil.

reactant | 1-(3-chloropropyl)-piperidine | 0.308 mol, 49.8 g | ClCCCN1CCCCC1 | C8H16ClN
reactant | 4-nitrophenol | 0.308 mol, 42.8 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | K2CO3 | 1.53 mol, 212 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 2 L | O | H2O
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
product | 1-[3-(4-nitro-phenoxy)-propyl]-piperidine | [N+](=O)([O-])C1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20N2O3
